US06649643B1
Production of N-Cycloheptyl-6-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl)-2-naphthamide
In a manner to that described in Example 9-(i), methyl 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoate (490 mg) was converted to 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoic acid, which was reacted with cycloheptylamine (0.20 mL) in a similar manner as described in Example 24-(i) to give the titled compound (560 mg) as a colorless powder.

reactant | methyl 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoate | 490 mg | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)C(=O)OC | C38H34N2O3
reactant | 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoic acid | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)C(=O)O | C37H32N2O3
reactant | cycloheptylamine | 0.20 mL | C1(CCCCCC1)N | C7H15N
product | N-Cycloheptyl-6-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl)-2-naphthamide | 560 mg | C1(CCCCCC1)NC(=O)C1=CC2=CC=C(C=C2C=C1)C(C(C)C)(C=1N=CNC1)O | C25H31N3O2
